US07985755B2
5-[4-(3-Chlorobenzenesulfonyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine (Example-026).
The sulfonamide was obtained by reacting 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine (50 mg; 0.18 mmol) and 3-chlorobenzenesulfonyl chloride (78 mg; 0.37 mmol) via Method AA to yield 80 mg. (99% yield). 1HNMR (400 MHz, DMSO-d6) δ 7.82 (m, 1H), 7.72 (m, 3H), 7.32 (t, J=8.4 Hz, 1H), 7.11 (br s, 2H), 6.75 (d, J=8.0 Hz, 1H), 6.50 (d, J=7.6 Hz, 1H), 5.93 (br s, 2H), 3.96 (d, J=6.4 Hz, 2H), 3.72 (br d, J=11.6 Hz, 2H), 2.32 (t, J=12 Hz, 2H), 1.84 (m, 3H), 1.36 (m, 2H). MS m/z (ESI) 448 (M+H)+.

reactant | 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 0.18 mmol, 50 mg | N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C14H19N5O
reactant | 3-chlorobenzenesulfonyl chloride | 0.37 mmol, 78 mg | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 5-[4-(3-Chlorobenzenesulfonyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine | 99% yield | ClC=1C=C(C=CC1)S(=O)(=O)C1(CCNCC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C20H22ClN5O3S
